US07790770B2
To a suspension of (3-fluoro-5-(trifluoromethyl)phenyl)(4-fluorophenyl)methanone oxime (904 mg, 3.0 mmol) in EtOH (3 mL) and conc. NH4OH (15 mL) was added ammonium acetate (120 mg, 1.6 mmol) followed by zinc powder (1.05 g, 16.2 mmol) and the reaction mixture was heated at reflux for 2 h. The reaction mixture was allowed to cool to rt then filtered. The filtered solid was washed with 10 N NaOH (15 mL) and EtOAc (15 mL). The combined filtrate was extracted with EtOAc (2×30 mL). The combined organic fractions were washed with sat. NaCl (2×10 mL) then dried over MgSO4, filtered and concentrated under reduced pressure to yield (3-fluoro-5-(trifluoromethyl)phenyl)(4-fluorophenyl)methanamine (804 mg, 93% yield) as a clear, colorless oil. LCMS: RT=0.96 min [M−NH2] 271.0 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% acetonitrile/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); NMR: 400 MHz 1H (CDCl3) δ ppm 1.68 (bs, 2H), 5.25 (s, 1H), 7.03 (t, J=8.57 Hz, 2H), 7.19 (d, J=7.91 Hz, 1H), 7.29-7.35 (m, 3H), 7.48 (s, 1H).

reactant | (3-fluoro-5-(trifluoromethyl)phenyl)(4-fluorophenyl)methanone oxime | 3.0 mmol, 904 mg | FC=1C=C(C=C(C1)C(F)(F)F)C(=NO)C1=CC=C(C=C1)F | C14H8F5NO
reactant | ammonium acetate | 1.6 mmol, 120 mg | C(C)(=O)[O-].[NH4+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | NH4OH | 15 mL | [NH4+].[OH-]
catalyst | zinc | 16.2 mmol, 1.05 g | [Zn] | Zn
product | (3-fluoro-5-(trifluoromethyl)phenyl)(4-fluorophenyl)methanamine | 804 mg, 93% yield | FC=1C=C(C=C(C1)C(F)(F)F)C(N)C1=CC=C(C=C1)F | C14H10F5N
